* CSD25481F4
*****************************************************************************
* (C) Copyright 2020 Texas Instruments Incorporated. All rights reserved.   
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
**
*
* Released by: Texas Instruments Inc.
* Part: CSD25481F4
* Date: 02/13/2020
* Model Type:  TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.6.0
* Datasheet: SLPS420E – SEPTEMBER 2013 – REVISED DECEMBER 2017
*
* Model Version: 1.20
*
* Update: added ESD diode
*****************************************************************************
* PSpice Model Editor - Version 16.6.0
*$
**********************************************************************
**********************************************************************
*                                                                    *
*  CSD25481F4  -  P-Channel 20/12 FemtoFET                           *
*                                                                    *
**********************************************************************
**********************************************************************
*   PSpice Model "CSD25481F4"  - case NOM typical
*
*   OrCAD PSpice MOS model level 7 = BSIM3 v3.3.2
*      model updated 12/27/2017, gd
*
**********************************************************************
* SUBCKT Definition:  1=D  2=G  3=S
**********************************************************************
.SUBCKT CSD25481F4  1 2 3
.param  refAA	1.71701
.param  pitch	1.53
.param  AA	0.3045
.PARAM  pWidth	{AA/pitch}
.PARAM  perim	{pWidth*2.1}
.PARAM  pSclf	{AA/refAA}
M1  10 11 12 12 PMOS W={pWidth} L=0.45u PD={perim} PS={perim}
DBD   7  8	DBD	{pSclf}
RBD   7  8	5E10
CBD   7  8	12e-12
DGD  11 13	DD	{pSclf}
DDG  10 13	DD	{pSclf}
CGS   2  8	2E-12
RG1	2 22	13
CG1  22  9	5e-12
RG2  22 23	13
CG2  23  9	5e-12
RGG  23 11	9
RSB  12  9	RTEMP {0.35E-3/pSclf}
RSS   9  8  RTEMP {6.8e-3/pSclf}
RSX   8  3	{0.12E-3/pSclf}
RDD   7 10  RTEMP {1.1e-3/pSclf}
RDX   1  7	{0.25E-3/pSclf}
DESD	2  8	ZenerD
******************************************************************* 
.MODEL  PMOS   PMOS (    LEVEL   = 7             Version = 3.2
+ TNOM    = 27           CAPMOD  = 2             LINT   = 0.02e-6
+ TOX     = 1.75E-8      NCH     = 1.365e17      NSUB   = 5.0e15
+ A0      = 1.0          A1      = 0.0           A2     = 1.0
+ UA      = 7.3e-9	 UB      = 2E-19         VBM    = -5
+ UA1     = 1.2e-9       UB1     = -2.5e-18      UTE    = -1.40
+ KT1     = -0.59        KT2     = 0.02          KT1L   = 1e-14
+ Dvt0    = 2.3          Dvt1    = 0.55          Dvt2   = -0.03
+ PDIBLC1 = 0.15         PDIBLC2 = 0.025         B0     = 0.02
+ VOFF    = -0.25        NFACTOR = 1.67          NLX    = 1.70e-7
+ ETA0    = 0.03         ETAB    = -0.05         XJ     = 6.0e-7
+ PSCBE1  = 8.0e8        PSCBE2  = 1.0e-3		 U0	  = 285
+ DELTA   = 0.10         DSUB    = 0.9           DROUT  = 0.7
+ CJ      = 1e-18        CJSW    = 1e-18         CF     = 0
+ VOFFCV  = 0.4
+ CGSO    = 132e-12      CGDO    = 3e-12         CGBO   = 0 )
******************************************************************* 
.MODEL DBD D ( TNOM = 27
+ CJO= 746E-12	VJ = 0.99	M  = 0.325	 FC = 0.5	TT = 2E-9 
+ RS = 5.25e-3	TRS1=3.0e-3	 TRS2= 1e-7
+ IS = 1.7e-11	N  = 1.12	XTI = 3.5	
+ BV = 21.85     TBV1=6.35e-4	TBV2=-3.5e-7  NR = 3  ISR = 1.15e-8 )
*******************************************************************
.MODEL DD D (CJO=284E-12 VJ=0.89 M=0.905 FC=0.5 IS=1E-14 RS=20)
.MODEL ZenerD D ( TNOM = 27
+ CJO = 35e-12	VJ = 0.7	M  = 0.45	 RS = 0.18  TRS1 = -2e-3
+ FC  =  0.5	TT = 5e-10	IS = 4.47e-15  N = 1.0365  
+ XTI  = 3.5	BV  = 13.43 )
******************************************************************* 
.MODEL RTEMP RES (TC1=1.55E-3  TC2=1.45E-6)
******************************************************************* 
.ENDS CSD25481F4
*$
